US07094908B2
Ethyl 3-(4-fluoro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate was prepared (0.25 g, 28%) in the same manner as described in the above example 5 (20) from ethyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate (0.50 g, 2.64 mmol) and 3-fluorophthalic anhydride (0.57 g, 3.43 mmol), and the obtained product was identified with the following NMR data.

reactant | ethyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | 2.64 mmol, 0.50 g | NCC(C(=O)OCC)C1(OCCO1)C | C9H17NO4
reactant | 3-fluorophthalic anhydride | 3.43 mmol, 0.57 g | FC1=C2C(C(=O)OC2=O)=CC=C1 | C8H3FO3
product | Ethyl 3-(4-fluoro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | FC1=C2C(N(C(C2=CC=C1)=O)CC(C(=O)OCC)C1(OCCO1)C)=O | C17H18FNO6
